### PR TITLE
[Merged by Bors] - feat: recover as a tactic combinator

### PR DESCRIPTION
**Pull request by siddhartha-gadgil**
Following a suggestion of @digama0 `recover` is implemented as wrapping tactics so that if goals are closed incorrectly they are reopened. Below are examples (test suggested by @gebner). Some code is from Aesop.

```lean
/-- problematic tactic for testing recovery -/
elab "this" "is" "a" "problem" : tactic =>
  Lean.Elab.Tactic.setGoals []

/- The main test-/
example : 1 = 1 := by
  recover this is a problem
  rfl

/- Tests that recover does no harm -/
example : 3 < 4 := by
    recover decide

example : 1 = 1 := by
    recover skip ; rfl

example : 2 = 2 := by
    recover skip
    rfl
```

### CODE REVIEW

File: Mathlib/Tactic/Recover.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
...
+  instantiateMVarDeclMVars mvarId
+
+/-- Returns unassigned metavariable dependencies (from Aesop) -/
+partial def getUnassignedGoalMVarDependencies (mvarId : MVarId) :
+    MetaM (HashSet MVarId) :=
+  return (← go mvarId |>.run {}).snd
+  where
+    /-- helper for adding metavariables -/
+    addMVars (e : Expr) : StateRefT (HashSet MVarId) MetaM Unit := do
+      let mvars ← getMVarsNoDelayed e
```
Comment (gebner) [inline Mathlib/Tactic/Recover.lean:43]: Won't this just ignore metavariables in delayed assignments?  cc @jlimperg

**Review by gebner — COMMENTED** [review]
The actual tactic implementation looks good.

File: Mathlib/Tactic/Recover.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+      modify (fun s => Std.HashSet.insertMany s mvars)
+      mvars.forM go
+    /-- main loop for metavariables-/
+    go (mvarId : MVarId) : StateRefT (HashSet MVarId) MetaM Unit :=
+      withIncRecDepth do
+        instantiateMVarsInGoal mvarId
```
[the remark this answers is not in the document]
Comment (JLimperg) [reply Mathlib/Tactic/Recover.lean:49]: It's an attempt at a minor efficiency play: `instantiateMVarsInGoal` updates the `MVarDecl` with the instantiated expressions. But given that `instantiateMVars` is cached anyway, I'm not sure whether this does anything.

File: Mathlib/Tactic/Recover.lean (hunk 1 above)
Comment (JLimperg) [reply Mathlib/Tactic/Recover.lean:43]: Yes, this looks like a bug. I'll update it in Aesop then link the new code.

File: Mathlib/Tactic/Recover.lean [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+
+/-- instantiating MVars in goal (from Aesop) -/
+def instantiateMVarsInGoal (mvarId : MVarId) : MetaM Unit := do
+  discard $ getMVarDecl mvarId
+    -- The line above throws an error if the `mvarId` is not declared. The line
+    -- below panics.
+  instantiateMVarDeclMVars mvarId
+
+/-- Returns unassigned metavariable dependencies (from Aesop) -/
+partial def getUnassignedGoalMVarDependencies (mvarId : MVarId) :
```
Comment (JLimperg) [inline Mathlib/Tactic/Recover.lean:37]: Now that I think about it: does `recover` actually want to recurse into the found metavariables? If we make the 'dropped' metavariables goals, any mvars occurring in them are not dropped any more, so they don't need to also become goals. cc @gebner

File: Mathlib/Tactic/Recover.lean [hunk 4]
```diff
@@ -0,0 +1,72 @@
...
+  let mut unassigned : HashSet MVarId := {}
+  for mvarId in originalGoals do
+    unless ← isExprMVarAssigned mvarId do
+      unassigned := unassigned.insert mvarId
+    let unassignedMVarDependencies ←
+        getUnassignedGoalMVarDependencies mvarId
+    unassigned :=
+        Std.HashSet.insertMany
+            unassigned unassignedMVarDependencies.toList
+  setGoals <| (← getGoals) ++ unassigned.toList
```
Comment (JLimperg) [inline Mathlib/Tactic/Recover.lean:72]: I think this can duplicate goals: if the initial goals are `?g1` and `?g2` and the tactic assigns `?g1`, then `getGoals` will return `?g2` but `unassigned` will also contain `?g2`.

File: Mathlib/Tactic/Recover.lean [hunk 5]
```diff
@@ -0,0 +1,72 @@
...
+
+/- Above code from Aesop -/
+
+/-- Modifier `recover` for a tactic (sequence) to debug cases where goals are closed incorrectly. The tactic `recover tacs` for a tactic (sequence) tacs applies the tactics and then adds goals that are not closed starting from the original -/
+elab "recover" tacs:tacticSeq : tactic => do
+  let originalGoals ← getGoals
+  evalTactic tacs
+  let mut unassigned : HashSet MVarId := {}
+  for mvarId in originalGoals do
+    unless ← isExprMVarAssigned mvarId do
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Recover.lean:65]: changed as per suggestion

File: Mathlib/Tactic/Recover.lean (hunk 3 above)
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Recover.lean:37]: A situation I can imagine: a new metavariable is created, a dropped mvar assigned to it and removed from goals but the new mvar is not added to goals.

File: Mathlib/Tactic/Recover.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Recover.lean:49]: I removed the line (a minor efficiency gain, even if present, is not relevant here).

File: Mathlib/Tactic/Recover.lean (hunk 1 above)
Comment (JLimperg) [reply Mathlib/Tactic/Recover.lean:43]: New code: https://github.com/JLimperg/aesop/pull/25

@gebner Could you give this another look?

File: Mathlib/Tactic/Recover.lean [hunk 6]
```diff
@@ -0,0 +1,72 @@
...
+      unassigned := unassigned.insert mvarId
+    let unassignedMVarDependencies ←
+        getUnassignedGoalMVarDependencies mvarId
+    unassigned :=
+        Std.HashSet.insertMany
+            unassigned unassignedMVarDependencies.toList
```
[the remark this answers is not in the document]
Comment (JLimperg) [reply Mathlib/Tactic/Recover.lean:70]: Ah no, this won't work because you've declared `insertMany` in `Mathlib.Tactic.Std.HashSet` rather than `Std.HashSet`. I don't know what mathlib policy is wrt defs like this that 'should be in core'. cc @digama0

[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Recover.lean:70]: Ah thanks. I had the same issue in another place and was puzzled. I will fix this.

File: Mathlib/Tactic/Recover.lean (hunk 3 above)
Comment (JLimperg) [reply Mathlib/Tactic/Recover.lean:37]: If I understand correctly, your situation looks like this:

- initial goal: `?g[?m1]` (this is my notation for '`?g` contains `?m`')
- tactic introduces `?m2` and assigns `?m1 := ?m2`
- tactics returns goals: `[]`

Now if we just collect unassigned mvars in `?g`, we correctly find `?m2` (and not `?m1` since it gets substituted away by `instantiateMVars`). So we set goals:

- goals after `recover`: `[?m2]`

If there's another mvar `?m3` with `?m2[?m3]`, this is fine because `?m3` is already reachable from the tactic state after `recover`. So we don't need to recursively get mvars from `?m2`. However, maybe we want to do it anyway because it's nicer to have an mvar in the goal list than to not have it?

File: Mathlib/Tactic/Recover.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Recover.lean]: Fixed in both places. Thanks again.

File: Mathlib/Tactic/Recover.lean (hunk 3 above)
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Recover.lean:36]: I think I misunderstood your point. Is what you are saying that we should collect unassigned mvars in the original goals list, but no need to do this recursively. That sounds reasonable. I will make the change if you confirm that is what you mean and feel it will make things better.

Comment (JLimperg) [reply Mathlib/Tactic/Recover.lean:36]: Yes exactly, but I'm not sure about this. Let's wait and see what Gabriel thinks.

Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Recover.lean:36]: Sure.

Comment (digama0) [reply Mathlib/Tactic/Recover.lean:36]: It's not actually necessary to recurse into the initial goals at all, that was just an optimization. It suffices to just hold on to the list of goals itself and do all recursing through assignments at the end of the block.

File: Mathlib/Tactic/Recover.lean [hunk 7]
```diff
@@ -0,0 +1,72 @@
...
+          addMVars ldecl.type
+          if let (some val) := ldecl.value? then
+            addMVars val
+
+/- Above code from Aesop -/
+
+namespace Mathlib.Tactic
+
+
+/-- Modifier `recover` for a tactic (sequence) to debug cases where goals are closed incorrectly. The tactic `recover tacs` for a tactic (sequence) tacs applies the tactics and then adds goals that are not closed starting from the original -/
```
Comment (digama0) [inline Mathlib/Tactic/Recover.lean:60]: please break lines at 100 chars

File: Mathlib/Tactic/Recover.lean (hunk 1 above)
Comment (JLimperg) [reply Mathlib/Tactic/Recover.lean]: I've finally fixed this function.

**Comment by gebner** [comment]
Thanks!

bors r+
